Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Dilaudid / bee sting / Reglan
 
Attending: ___.
 
Chief Complaint:
Achalasia
 
Major Surgical or Invasive Procedure:
___
1. Esophagogastroduodenoscopy.
2. Laparoscopic ___ myotomy.
3. Repair of small mucosal perforation.
4. Anterior fundoplication.

 
History of Present Illness:
Ms ___ is a ___ with a history of esophageal atresia and TE 
fistula as an infant with staged repair who has had a lifetime 
of dysphagia. She had numerous
dilatations as a child and has always had difficulty with 
swallowing solids and fluids.  She lived with her symptoms but 
over the past ___ years feels that the dysphagia has worsened. 
She describes that she has needed to forcefully swallow air or 
liquids to help food down.  Her worsening symptomatology has
prompted 3 EGD dilatation procedures in the past ___ years along 
with a recent EGD in ___ during an episode of suspected food 
impaction. She presents following recent manometric findings 
___ after this episode that identifies type 2 achalasia.  

She denies nausea but does have occasional regurgitation of food 
when it cannot be swallowed. She has alternating diarrhea and 
constipation. She reports feeling bloated regularly after meals 
and recounts early satiety.  Dysphagia is present with solids 
but also with fluids at times.  She also reports an acid-taste 
in her mouth on a regular basis and a known diagnosis of GERD 
for which
she is followed with endoscopies. She also has apparent gastric 
motility disorder with an emptying study showing 26% retention 
at 4 hours. Has had weight gain that she attributes to her 
Hashimoto's thyroiditis and hypothyroidism for which she has 
needed increasing doses of levothyroxine.

 
Past Medical History:
Esophageal atresia and TEF s/p multiple surgeries and dilations
Lactose intolerance
Gastroparesis
Hypothyroidism
 
Social History:
___
Family History:
no family history of motility disorders
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 99 HR 71 BP 122/71 RR 16 O2 Sat 100% RA
Gen: NAD, well-nourished female
HEENT: no cervical lymphadenopathy
Lungs: CTAB
Heart: rrr, normal S1/2
Abd: soft, nt, nd
Extremities: wwp

DISCHARGE PHYSICAL EXAM:
VS: Temp 98.9 HR 86 BP 110/64 RR 18 O2 sat 97% RA
Gen: NAD, well-nourished female
HEENT: no cervical lymphadenopathy
Lungs: CTAB, incisions clean, dry, intact. 
Heart: rrr, normal S1/2
Abd: soft, nt, nd
Extremities: wwp
 
Pertinent Results:
___ 04:00PM BLOOD WBC-20.6* RBC-3.74* Hgb-11.5 Hct-34.4 
MCV-92 MCH-30.7 MCHC-33.4 RDW-12.1 RDWSD-40.6 Plt ___
___ 06:10AM BLOOD WBC-17.0* RBC-3.69* Hgb-11.1* Hct-34.4 
MCV-93 MCH-30.1 MCHC-32.3 RDW-12.2 RDWSD-41.7 Plt ___
 
Brief Hospital Course:
Patient was admitted to the hospital after ___ 
myotomy for achalasia. She did very well postoperatively, was 
tolerating soft diet, was able to ambulate, and her pain was 
well controlled on an oral medication regimen. Her white count, 
initially 22 immediately after the surgery, came down to 17 on 
post-operative day one. She was discharged from the hospital in 
good condition on post-operative day 1. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Polyethylene Glycol 17 g PO DAILY 
2. Erythromycin 250 mg PO TID 
3. Omeprazole 40 mg PO DAILY 
4. Levothyroxine Sodium 100 mcg PO 6X/WEEK (___) 
5. Levothyroxine Sodium 50 mcg PO 1X/WEEK (___) 

 
Discharge Medications:
1. Levothyroxine Sodium 100 mcg PO 6X/WEEK (___) 
2. Levothyroxine Sodium 50 mcg PO 1X/WEEK (___) 
3. Omeprazole 40 mg PO DAILY 
4. Polyethylene Glycol 17 g PO DAILY 
5. Erythromycin 250 mg PO TID 
6. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain Duration: 14 
Days 
Take as needed every ___ hours for pain. Do not exceed 4000 mg 
in 24 hour period. 
RX *acetaminophen 500 mg/5 mL 10 mL by mouth every six (6) hours 
Disp #*237 Milliliter Refills:*0
7. Ondansetron 8 mg PO Q8H:PRN Nausea Duration: 14 Days 
Take 1 tablet under the tongue every 8 hours as needed for 
nausea or vomiting. 
RX *ondansetron HCl 8 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*14 Tablet Refills:*0
8. TraMADOL (Ultram) 50 mg PO Q4H:PRN Pain Duration: 20 Doses 
Take as needed for severe pain. You may take this medication 
with Zofran to minimize nausea. 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Achalasia.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

you were admitted to the hospital after ___ 
myotomy for your achalasia. You are now ready to be discharged 
home. Please follow these instructions to ensure good recovery.

Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting. 
 -Increased shortness of breath
 -Your drain dressing may be removed on ___

Pain
 -Take stool softners while taking narcotics
 -No driving while taking narcotics

Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

Diet:
Full liquid diet for ___ days. Increase to soft solids as 
tolerates Eat small frequent meals. Sit in chair for all meals. 
Remain sitting up for ___ minutes after all meals

NO CARBONATED DRINKS
 
Followup Instructions:
___